US05521170
To a mixture of 5-ethoxycarbonylmethylene-1-(4-nitrobenzoyl)-2,3,4,5-tetrahydro-1H-1-benzazepine (671 mg) and nickel chloride hexahydrate (419 mg) in a mixture of methanol (25 ml) and tetrahydrofuran (25 ml) was added sodium borohydride (601 mg) in portions at 0° C. and the mixture was stirred at the same temperature for 30 minutes. The solution was filtered through a bed of celite and the filtrate was evaporated in vacuo. The residue was dissolved in chloroform and the solution was washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated in vacuo to give a crude oil and the oil was subjected to silica gel column (30 g, 1% methanol in chloroform) to give 1-(4-aminobenzoyl)-5-ethoxycarbonylmethyl-2,3,4,5-tetrahydro -1H-1-benzazepine (500 mg).

reactant | 5-ethoxycarbonylmethylene-1-(4-nitrobenzoyl)-2,3,4,5-tetrahydro-1H-1-benzazepine | 671 mg | C(C)OC(=O)C=C1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O | C21H20N2O5
reactant | sodium borohydride | 601 mg | [BH4-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | nickel chloride hexahydrate | 419 mg | O.O.O.O.O.O.[Ni](Cl)Cl
solvent | methanol | 30 g | CO | CH4O
product | 1-(4-aminobenzoyl)-5-ethoxycarbonylmethyl-2,3,4,5-tetrahydro -1H-1-benzazepine | 500 mg | NC1=CC=C(C(=O)N2CCCC(C3=C2C=CC=C3)CC(=O)OCC)C=C1 | C21H24N2O3
